US05700805
1-Amino-3-(4-chloro-3-methoxyiminomethylphenyl)-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (Tab. 1, No. 1.04)
0.38 g (16 mmol) of sodium hydride in 50 ml of anhydrous dimethylformamide was treated dropwise at 0°-5° C. with a solution of 5.0 g (14 mmol) of 3-(4-chloro-3-methoxyiminomethylphenyl)-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine in 50 ml of anhydrous dimethylformamide. A solution of 2.8 g (14 mmol) of 2,4-dinitrophenoxyamine in 50 ml of anhydrous dimethylformamide was added dropwise to this mixture after 10 minutes, after which it was stirred for 60 hours at 20°-25° C. and for 6 hours at 50° C. For working up, the cooled reaction mixture was poured into 800 ml of ice water. The aqueous phase was extracted three times with 200 ml of ethyl acetate each time. The ethyl acetate extracts were then dried over sodium sulfate and concentrated. After chromatographic purification of the crude product on silica gel (eluent: cyclohexane/ethyl acetate/triethylamine 79:20:1), 1.5 g (29%) of a colorless oil were obtained.

reactant | sodium hydride | 16 mmol, 0.38 g | [H-].[Na+]
reactant | 3-(4-chloro-3-methoxyiminomethylphenyl)-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 14 mmol, 5.0 g | ClC1=C(C=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)C=NOC | C13H9ClF3N3O3
reactant | 2,4-dinitrophenoxyamine | 14 mmol, 2.8 g | [N+](=O)([O-])C1=C(ON)C=CC(=C1)[N+](=O)[O-] | C6H5N3O5
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-Amino-3-(4-chloro-3-methoxyiminomethylphenyl)-2,4-dioxo-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 1.5 g, 29% | NN1C(N(C(C=C1C(F)(F)F)=O)C1=CC(=C(C=C1)Cl)C=NOC)=O | C13H10ClF3N4O3
